US06660723B1
2.32 mmol (442 mg) of tosyl chloride and 2.55 mmol (312 mg) of 4-(N,N-dimethylamino)pyridine are introduced while stirring with a magnetic stirrer into 5 ml of anhydrous dichloromethane in a glass reaction vessel which is equipped for handling under an inert atmosphere and has been carefully dried. 2.32 mmol (200 mg) of isopentenol dissolved in approx. 1 ml of dichloromethane are slowly added to this mixture through a septum using a syringe. The reaction is monitored by thin-layer chromatography on silica (silica gel 60 F-254; eluent: pentane/ethyl acetate 85/15 vol./vol.; Rf (product)=0.4 and Rf (TsCl)=0.5). After approx. 3 hours' stirring under a nitrogen atmosphere, the reaction mixture is diluted in a large volume of hexane (approx. 100 ml), resulting in the immediate formation of a white precipitate. The mixture is then filtered and the filtrate concentrated by evaporation under reduced pressure. The solution is then diluted with diethyl ether and refiltered. Once the solvent has evaporated, a yellowish oil is obtained. The product is purified by preparative chromatography through a silica column (silica gel 60; eluent: pentane/ethyl acetate 85/15). In this manner, 1.98 mmol (475 mg) of 3-methyl-3-butene-1-yl tosylate (85% isolated yield) are obtained. The compound (colorless oil) is stored at +4° C. in an anhydrous medium.

reactant | tosyl chloride | 2.32 mmol, 442 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | isopentenol | 2.32 mmol, 200 mg | C(=CC(C)C)O | C5H10O
reactant | hexane | approx. 100 ml | CCCCCC | C6H14
catalyst | 4-(N,N-dimethylamino)pyridine | 2.55 mmol, 312 mg | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | approx. 1 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 3-methyl-3-butene-1-yl tosylate | 1.98 mmol, 475 mg, 85% | S(=O)(=O)(OCCC(=C)C)C1=CC=C(C)C=C1 | C12H16O3S
